US06953860B2
An oven dried 300 mL 3-necked round bottomed flask was equipped with a magnetic stirring bar, argon inlet, and drying tube. The flask was charged with 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoic acid (10 gm, 28.03 mmol) followed by ethanol (100 mL). The resulting solution was cooled using an ice-water bath, the stirring solution was treated with concentrated H2SO4 (0.07 mL, 2.52 meq.). The flask was then removed from the ice-water bath, the argon inlet and drying tube were removed, and the flask was equipped with a condenser and thermocouple. The reaction mixture was heated to reflux and monitored by TLC (using a 1:2:6 MeOH:EtOAc:hexane solvent system). After stirring at reflux for 5 hours, the reaction flask was fitted with a short path distillation apparatus and ethanol was distilled off (70 mL). The resulting residue was cooled to 10° C. and treated dropwise with NaOEt (21 wt %, 37.7 mL, 101.04 mmol). The resulting mixture was then treated with N-methylhydroxylamine hydrochloride (3.51 gm; 42.05 mmol). The reaction flask was then re-equipped with a drying tube and argon inlet, and the reaction was stirred at ambient temperature. b) The reaction was allowed to stir for 18 hours at ambient temperature. TLC analysis (using 50% EtOAc in hexane and 10% methanol in CH2Cl2) showed completion of the reaction. The reaction flask was placed in an ice-water bath, and the reaction mixture was treated dropwise with a cooled (ice-water bath) mixture of glacial acetic acid (3.3 mL; 57.4 mmol) and 33 mL of distilled water. After completion of the addition of the aqueous acetic acid solution, the pH of the mixture was adjusted to between 6.4 to 6.8 with 1N NaOH (litmus). The mixture was then treated with additional distilled water (5 mL) where upon solid began to precipitate out. The reaction flask was then equipped with a short path distillation apparatus, and approximately 27 mL of solvent was removed (80 mm of Hg vacuum at 30-35° C.). The pH of the resulting mixture was re-adjusted to between 6.4 to 6.8, and the mixture was allowed to stir with cooling from an ice-water bath for 30 minutes. The solid was collected by filtration, and the solid product was washed with ice-cold distilled water. The air-dried product was then placed in a vacuum oven and dried for 18 hours at 60° C. under vacuum to give 9.51 gm of tepoxalin (87.9% yield, HPLC wt % purity of 98.6%).

reactant | 5-(4-chlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-propanoic acid | 28.03 mmol, 10 gm | ClC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)CCC(=O)O | C19H17ClN2O3
reactant | H2SO4 | 0.07 mL, 2.52 meq. | OS(=O)(=O)O | H2O4S
reactant | NaOEt | 101.04 mmol, 37.7 mL | CC[O-].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 42.05 mmol, 3.51 gm | Cl.CNO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 33 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | acetic acid | 57.4 mmol, 3.3 mL | C(C)(=O)O | C2H4O2
product | tepoxalin | 9.51 gm, 87.9% yield | CN(C(=O)CCC=1C=C(N(N1)C=2C=CC(=CC2)OC)C=3C=CC(=CC3)Cl)O | C20H20ClN3O3
